US07338960B2
({2-Methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}butyl)oxy]phenyl}oxy)acetic acid
A stirred solution of ethyl [(4-{[1-(6-bromo-2-pyridinyl)butyl]oxy}-2-methylphenyl)oxy]acetate (50 mg, 0.12 mmol) in DME (0.5 mL) was treated with phenyl 4-(triflouromethyl)benzeneboronic acid (23 mg, 0.12 mmol) followed by Pd(PPh3)4 (14 mg, 0.01 mmol) and a solution of Na2CO3 (38 mg, 0.36 mmol) in water (0.5 mL), and the resulting mixture was heated at 70° C. for 18 hours under nitrogen. The solvent was then removed under vacuum and the resulting mixture acidified with aqueous HCl (2M) and then partitioned between water and EtOAc, the layers separated and the organic layer reduced to an oil. Purification by mass directed auto-prep HPLC afforded the title compound (12 mg).

reactant | ethyl [(4-{[1-(6-bromo-2-pyridinyl)butyl]oxy}-2-methylphenyl)oxy]acetate | 0.12 mmol, 50 mg | BrC1=CC=CC(=N1)C(CCC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C20H24BrNO4
reactant | phenyl 4-(triflouromethyl)benzeneboronic acid | 0.12 mmol, 23 mg | C1(=CC=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)B(O)O | C13H10BF3O2
reactant | Na2CO3 | 0.36 mmol, 38 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 0.5 mL | COCCOC | C4H10O2
solvent | water | 0.5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.01 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ({2-Methyl-4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}butyl)oxy]phenyl}oxy)acetic acid | 12 mg | CC1=C(C=CC(=C1)OC(CCC)C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O | C25H24F3NO4
